US06509499B1
1.3 g (5.46 mmol) of 70-75% m-chloroperbenzoic acid are added rapidly to a solution of 2.2 g (6.24 mmol) of N-[3,5-dimethyl-4-[(nitromethyl)thio]phenyl]benzenesulphonamide in 79 ml of anhydrous chloroform. The reaction medium is stirred for 24 h at room temperature and then poured into a solution of 0.33 g (3.93 mmol) of sodium bicarbonate. The mixture is extracted with methylene chloride. The combined organic extracts are dried over sodium sulphate and concentrated to dryness under reduced pressure. The residue obtained is purified by successive chromatographies on a column of silica (eluent for the first chromatography: methylene chloride; eluent for the second chromatography; 2/1 hexane/ethyl acetate) and crystallization from hexane, to give 0.98 g (42%) of N-[3,5-dimethyl-4-[(nitromethyl)sulphinyl]phenyl]benzenesulphonamide.

reactant | m-chloroperbenzoic acid | 5.46 mmol, 1.3 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | N-[3,5-dimethyl-4-[(nitromethyl)thio]phenyl]benzenesulphonamide | 6.24 mmol, 2.2 g | CC=1C=C(C=C(C1SC[N+](=O)[O-])C)NS(=O)(=O)C1=CC=CC=C1 | C15H16N2O4S2
reactant | sodium bicarbonate | 3.93 mmol, 0.33 g | C([O-])(O)=O.[Na+]
solvent | chloroform | 79 ml | C(Cl)(Cl)Cl | CHCl3
product | N-[3,5-dimethyl-4-[(nitromethyl)sulphinyl]phenyl]benzenesulphonamide | 0.98 g, 42% | CC=1C=C(C=C(C1S(=O)C[N+](=O)[O-])C)NS(=O)(=O)C1=CC=CC=C1 | C15H16N2O5S2
